US09085570B2
A mixture of methyl 4-[4-[(acetylsulfanyl)methyl]-5-methyl-1,3-oxazol-2-yl]benzoate (4.29 g, 14.05 mmol, 1.00 equiv) and potassium carbonate (4.85 g, 34.84 mmol, 3.00 equiv) in methanol (50 mL) was stirred at 35° C. under an inert atmosphere of nitrogen for 30 min Water (100 mL) was then added and the resulting solution was extracted with 3×150 mL of dichloromethane. The combined organic layers was washed with 2×300 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to yield 3.8 g of crude methyl 4-[5-methyl-4-(sulfanylmethyl)-1,3-oxazol-2-yl]benzoate as a white solid. LC-MS: (ES, m/z): 305 [M+CH3CN+H]+, 264 [M+H]+, 230.

reactant | methyl 4-[4-[(acetylsulfanyl)methyl]-5-methyl-1,3-oxazol-2-yl]benzoate | 14.05 mmol, 4.29 g, 1.00 equiv | C(C)(=O)SCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C15H15NO4S
reactant | potassium carbonate | 34.84 mmol, 4.85 g, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 100 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | methyl 4-[5-methyl-4-(sulfanylmethyl)-1,3-oxazol-2-yl]benzoate | 3.8 g | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS | C13H13NO3S
